US06846819B1
b) 1-Methyl-2-(methylaminomethyl)naphthalene
According to the procedure of Preparation 20 (b), except substituting N, 1-dimethylnaphthalene-2-carboxamide (0.3 g, 1.5 mmole) for the N,3-dimethylindene-2-carboxamide, the title compound (0.1 g, 36%) was prepared as a colorless oil: MS (ES) m/e 186 (M+H)+.

reactant | N, 1-dimethylnaphthalene-2-carboxamide | 1.5 mmole, 0.3 g | CNC(=O)C1=C(C2=CC=CC=C2C=C1)C | C13H13NO
reactant | N,3-dimethylindene-2-carboxamide | CNC(=O)C=1CC2=CC=CC=C2C1C | C12H13NO
product | 1-Methyl-2-(methylaminomethyl)naphthalene | 0.1 g, 36% | CC1=C(C=CC2=CC=CC=C12)CNC | C13H15N
